US07932250B2
2-Methoxy-N-(4-nitrophenyl)acetamide
To a mixture solution of 384 μL (5.0 mmol) of methoxyacetic acid and 691 mg (5.0 mmol) of p-nitroaniline in 10 mL of dichloromethane were added 1.53 mg (5.5 mmol) of 2-chloro-1,3-dimethylimidazoliumhexafluorophosphate and 1.53 mL (111.0 mmol) of triethylamine, and the mixture was refluxed for 7 hours. Then, the reaction mixture was extracted with ethyl acetate, the extract was washed with water and saturated saline solution, then, dried over with anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (eluent:hexane/ethyl acetate=2/1) to give 750 mg (71%) of the title compound.

reactant | methoxyacetic acid | 5.0 mmol, 384 μL | COCC(=O)O | C3H6O3
reactant | p-nitroaniline | 5.0 mmol, 691 mg | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 2-chloro-1,3-dimethylimidazoliumhexafluorophosphate | 5.5 mmol, 1.53 mg | F[P-](F)(F)(F)(F)F.ClC1=[N+](C=CN1C)C
reactant | triethylamine | 111.0 mmol, 1.53 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-Methoxy-N-(4-nitrophenyl)acetamide | 750 mg, 71% | COCC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O4
